US03984419
A. 1,2,3,4,4a,9a-Hexahydrofluorene-1-carboxylic acid
A solution of 21.0 g (0.10 mole) of fluorene-1-carboxylic acid in 25 ml of absolute ethanol is added to 500 ml of liquid ammonia and the solution treated portionwise with 4.2 g (0.60 mole) of lithium cut in small pieces. After evaporation of the NH3, the residue is cooled in ice and treated first with water and then with sufficient conc. HCl to render it strongly acidic. The crude partially reduced product is filtered off and dissolved in acetic acid. Reduction of the solution over 1 g of PtO2 under up to 55 psi of H2 is complete after about 1 equivalent of H2 is taken up. The solution is freed of catalyst and taken to dryness. Recrystallization from hexane affords the desired product, mp 138°-139°.

reactant | fluorene-1-carboxylic acid | 0.10 mole, 21.0 g | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | ammonia | N | H3N
reactant | lithium | 0.60 mole, 4.2 g | [Li] | Li
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2,3,4,4a,9a-Hexahydrofluorene-1-carboxylic acid | C1(CCCC2C3=CC=CC=C3CC12)C(=O)O | C14H16O2
